US05258386
(+)-3-(2-Phenyl-4-quinazolinyloxy)-17-methylmorphinan
The O-demethylation procedure described in Steroids 11:151 [1968] was modified for this synthesis. First, 16.1 g (62.3 mmol) of dextrorphan, 2, were dissolved in 500 mL hot acetone, to which 15.5 g (64.4 mmol) AM-ex-OL (Aldrich) and 17.13 g (123.9 mmol) potassium carbonate were added. The reaction mixture was stirred at reflux overnight under an atmosphere of argon. After cooling, the reaction mixture was poured into a separatory funnel to which 500 mL water were added. Extraction with 1×500 and 2×250 mL benzene was followed by washing the combined organics with 1×250 mL water and removing the solvent in vacuo to give 27.51 g (96%) product as a white glass which was homogeneous by TLC. Recrystallization in ethyl acetate gave pure 3 as white crystals, mp 138°-139° C. EIMS m/z 461. Anal. (C31H31N3) C, H, N.

reactant | dextrorphan | 62.3 mmol, 16.1 g | CN1CC[C@@]23CCCC[C@@H]2[C@@H]1CC4=C3C=C(C=C4)O | C17H23NO
reactant | AM-ex-OL | 64.4 mmol, 15.5 g | C1=CC=C(C=C1)C2=NC3=CC=CC=C3C(=N2)Cl | C14H9ClN2
reactant | potassium carbonate | 123.9 mmol, 17.13 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 500 mL | O | H2O
solvent | acetone | 500 mL | CC(=O)C | C3H6O
product | (+)-3-(2-Phenyl-4-quinazolinyloxy)-17-methylmorphinan | 27.51 g, 96% | C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=N1)OC=1C=CC=2C[C@@H]3[C@@H]4CCCC[C@@]4(C2C1)CCN3C | C31H31N3O
